US09260418B2
6-[(6-Ethyoxypyridin-3-yl)methyl]-3-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]benzo[h]quinazolin-4(3H)-one
To a solution of sodium hydride (0.012 g, 0.31 mmol) in 1 mL of DMSO was added ethanol (0.022 mL, 0.37 mmol). After 5 min, 6-[(6-Fluoropyridin-3-yl)methyl]-3-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]benzo[h]quinazolin-4(3H)-one (0.050 g, 0.12 mmol) was added. After 4 h, the reaction was diluted with ethyl acetate, washed with water, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified via silica gel chromatography, eluting with 25-75% ethyl acetate in hexanes to provide the title compound that gave proton NMR spectra consistent with theory and a mass ion (ES+) of 432.1916 for [M+H]+ [Calc'd for C25H26N3O4, [M+H]+=432.1918]: 1H NMR (400 MHz, CDCl3) δ 8.92-8.89 (m, 1H), 8.26 (s, 1H), 8.00 (s, 1H), 7.89-7.86 (m, 1H), 7.84 (s, 1H), 7.65-7.58 (m, 2H), 7.29 (s, 1H), 6.55 (s, 1H), 4.86-4.79 (m, 1H), 4.29-4.06 (m, 7H), 3.59-3.52 (m, 1H), 3.33-3.29 (m, 1H), 3.16 (d, J=6.5 Hz, 1H), 2.29-2.19 (m, 1H), 2.01-1.97 (m, 1H), 1.30-1.27 (m, 1H).

reactant | sodium hydride | 0.31 mmol, 0.012 g | [H-].[Na+]
reactant | ethanol | 0.37 mmol, 0.022 mL | C(C)O | C2H6O
reactant | 6-[(6-Fluoropyridin-3-yl)methyl]-3-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]benzo[h]quinazolin-4(3H)-one | 0.12 mmol, 0.050 g | FC1=CC=C(C=N1)CC=1C=C2C(N(C=NC2=C2C1C=CC=C2)[C@@H]2[C@H](COCC2)O)=O | C23H20FN3O3
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-[(6-Ethyoxypyridin-3-yl)methyl]-3-[(3R,4S)-3-hydroxytetrahydro-2H-pyran-4-yl]benzo[h]quinazolin-4(3H)-one | C(C)OC1=CC=C(C=N1)CC=1C=C2C(N(C=NC2=C2C1C=CC=C2)[C@@H]2[C@H](COCC2)O)=O | C25H25N3O4
